US06667312B2
N4-(6-Chlorohexyl)quinoline-3,4-diamine (5 g, 18 mmol), triethyl orthoacetate (2.92 g, 18 mmol), toluene (75 mL), and a catalytic amount of pyridine hydrochloride were combined in a pressure vessel and heated to 140° C. After about 1.5 hours the reaction mixture was allowed to cool and then it was concentrated under reduced pressure to provide 3.8 g of 1-(6-chlorohexyl)-2-methyl-1H-imidazo[4,5-c]quinoline as a dark orange oil.

reactant | N4-(6-Chlorohexyl)quinoline-3,4-diamine | 18 mmol, 5 g | ClCCCCCCNC1=C(C=NC2=CC=CC=C12)N | C15H20ClN3
reactant | triethyl orthoacetate | 18 mmol, 2.92 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chlorohexyl)-2-methyl-1H-imidazo[4,5-c]quinoline | 3.8 g | ClCCCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C17H20ClN3
